US08557936B2
2-Methoxybiphenyl-3-carbaldehyde (17):
To a solution of 17.4 g (0.15 mol) of dry TMEDA in 600 mL of hexanes, 60.0 mL (0.15 mol) of 2.5 M nBuLi in hexanes was added at room temperature. This mixture was stirred for 30 min, and then 27.6 g (0.15 mol) of 2-phenylanisol was added. This mixture was stirred for 4 hr at 55° C., then heated to 100° C., and a solution of 28.0 g (0.38 mol) of DMF in 200 mL of THF was added dropwise with vigorous stirring. The resulting mixture was evaporated to dryness, and the product was isolated by flash chromatography on silica gel 60 (40-63 um, eluent: hexanes-diethyl ether from 100:1 to 20:1, vol.) to yield 26.1 g (82%) of the title product.

reactant | TMEDA | 0.15 mol, 17.4 g | CN(C)CCN(C)C | C6H16N2
reactant | nBuLi | 0.15 mol, 2.5 M, 60.0 mL | [Li]CCCC
reactant | 2-phenylanisol | 0.15 mol, 27.6 g | C1(=CC=CC=C1)C1=C(C=CC=C1)OC | C13H12O
reactant | DMF | 0.38 mol, 28.0 g | CN(C)C=O | C3H7NO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-Methoxybiphenyl-3-carbaldehyde | 26.1 g, 82% | COC1=C(C=CC=C1C=O)C1=CC=CC=C1 | C14H12O2
